US07053255B2
(1) Synthesis of 1-(2-bromophenyl)naphthalene
Under an atmosphere of argon, 2-bromoiodobenzene (7.0 g, 25 mmole), naphthaleneboronic acid (4.0 g, 23 mmole) and tetrakis(triphenylphosphine)palladium(0) (0.5 g, 0.43 mmole, 1.7% Pd) were dissolved into toluene (50 ml). To the obtained solution, an aqueous solution of sodium carbonate (7.3 g, 69 mmole, 3 eq/35 ml) was added. The resultant solution was heated under refluxing for 10 hours and left standing for one night. The formed organic layer was separated, washed with a saturated aqueous solution of sodium chloride (50 ml) and dried with anhydrous magnesium sulfate. Then, the solvent was removed by distillation and a yellow oil was obtained. The obtained oil was purified by the column chromatography (silica gel/hexane, hexane+3% dichloromethane and hexane+10% dichloromethane, successively) and white needle crystals (5.4 g, 83%) were obtained.

reactant | 2-bromoiodobenzene | 25 mmole, 7.0 g | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | naphthaleneboronic acid | 23 mmole, 4.0 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium carbonate | 69 mmole, 35 ml, 7.3 g, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.43 mmole, 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-bromophenyl)naphthalene | 5.4 g, 83% | BrC1=C(C=CC=C1)C1=CC=CC2=CC=CC=C12 | C16H11Br
